US09303007B2
A water (5 mL) solution of LiOH (0.146 g, 6.09 mmol) was added to a methanol (5 mL) solution of (S)-1-tert-butyl 5-methyl 1H-pyrazole-1,5(4H,5H)-dicarboxylate (0.76 g, 3.11 mmol), and stirred at ambient conditions for ˜7 h. The reaction mixture was cooled with an ice-water bath, and HCl/H2O (3 mL of 1.00 N; 3.0 mmol) was added dropwise and stirred for a few minutes. Then, the volatile component was removed in vacuo and the resultant viscous oil was exposed to high vacuum to afford lithium (S)-2-(tert-butoxycarbonyl)pyrazolidine-3-carboxylate as a white foam, which was used without further purification. 1H NMR (DMSO-d6, δ=2.50 ppm, 400 MHz) for crude sample: 3.98 (dd, J=8.5, 6.3, 1H), 2.86-2.74 (m, 2H), 2.45 (s, 3H), 2.25-2.17 (m, 1H), 2.10-2.02 (m, 1H), 1.35 (s, 9H). LC-MS: Anal. Calcd. for [M+H]+ C10H19N2O4: 231.13. found 231.21.

reactant | water | 5 mL | O | H2O
reactant | LiOH | 6.09 mmol, 0.146 g | [Li+].[OH-]
reactant | (S)-1-tert-butyl 5-methyl 1H-pyrazole-1,5(4H,5H)-dicarboxylate | 3.11 mmol, 0.76 g | N1(N=CC[C@H]1C(=O)OC)C(=O)OC(C)(C)C | C10H16N2O4
reactant | HCl H2O | 3.0 mmol, 1.00 N, 3 mL | Cl.O
solvent | methanol | 5 mL | CO | CH4O
product | lithium (S)-2-(tert-butoxycarbonyl)pyrazolidine-3-carboxylate | C(C)(C)(C)OC(=O)N1NCC[C@H]1C(=O)[O-].[Li+] | InChI=1S/C9H16N2O4.Li/c1-9(2,3)15-8(14)11-6(7(12)13)4-5-10-11;/h6,10H,4-5H2,1-3H3,(H,12,13);/q;+1/p-1/t6-;/m0./s1
